US06121202
Preparation of 3-Benzyloxy-5-(methylsulfonyl)-2-thiophenecarboxylic Acid
A mixture of methyl 3-benzyloxy-5-(methylsulfonyl)-2-thiophenecarboxylate (16.7 g, 51.2 mmol), 50 ml 2N NaOH and 50 ml of tetrahydrofuran is heated at reflux temperatures for 1 hour, cooled to room temperature and concentrated in vacuo to an aqueous residue. The residue is diluted with water, acidified to pH 1-2 with 6N HCl and filtered. The filtercake is washed with water and dried to give the title product as a white solid, 14.55 g (91% yield). A small sample was recrystallized from aqueous ethanol to give white needles, mp 188-189° C., identified by 1HNMR, 13CNMR, IR and mass spectral analyses.

reactant | methyl 3-benzyloxy-5-(methylsulfonyl)-2-thiophenecarboxylate | 51.2 mmol, 16.7 g | C(C1=CC=CC=C1)OC1=C(SC(=C1)S(=O)(=O)C)C(=O)OC | C14H14O5S2
reactant | NaOH | 2N, 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-Benzyloxy-5-(methylsulfonyl)-2-thiophenecarboxylic Acid | 91% yield | C(C1=CC=CC=C1)OC1=C(SC(=C1)S(=O)(=O)C)C(=O)O | C13H12O5S2
